US05476671
Synthesis of N-(2,3-dihydroxypropyl)-N-octadecylhexadecanamide (Structure 10)
N-(2,3-dihydroxypropyl)-octadecylamine (1.0 g, 0.0029 mole) and potassium hydroxide (0.01 g, 0.18 mmole) were heated to 85° C. under vacuum. Methyl palmitate (0.7885 g, 0.0029 mole) was heated and added dropwise to the reaction. The reaction was heated under vacuum for 6 hours. A waxy off-white solid was obtained (crude yield=1.59 g). The waxy solid was recrystalized from hot hexane (yield=0.99 g).

reactant | N-(2,3-dihydroxypropyl)-octadecylamine | 0.0029 mole, 1.0 g | OC(CNCCCCCCCCCCCCCCCCCC)CO | C21H45NO2
reactant | potassium hydroxide | 0.18 mmole, 0.01 g | [OH-].[K+]
reactant | Methyl palmitate | 0.0029 mole, 0.7885 g | C(CCCCCCCCCCCCCCC)(=O)OC | C17H34O2
product | N-(2,3-dihydroxypropyl)-N-octadecylhexadecanamide | OC(CN(C(CCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)CO | C37H75NO3
